US07579368B2
Potassium carbonate (100 g, 724 mmol) and iodoethane (29.1 mL, 364 mmol) were added to a mechanically stirred solution of 2-hydroxy-4-iodobenzoic acid (16.0 g, 60.6 mmol, prepared according to Singh, S.; et al. J. Med. Chem. 1997, 40, 2472-2481) in 2-butanone (250 mL). The resulting mixture was heated at 80° C. for 16 h and then allowed to cool. Diethyl ether (250 mL) was added to the reaction vessel and the supernatant was transferred to a separatory funnel. Diethyl ether (250 mL) was again added to the reaction vessel to wash the remaining solid and the supernatant was again transferred to the separatory funnel. Water (400 mL) was added and the phases were separated. The aqueous phase was washed twice with diethyl ether (500 mL, 200 mL) and then the combined organic phases were washed with water (400 mL), brine (400 mL), dried over magnesium sulfate and concentrated. Purification of the crude residue by flash column chromatography (silica gel, eluting with 10% ethyl acetate in hexanes) gave ethyl 2-ethoxy-4-iodobenzoate as an off-white solid (9.50 g, 49%).

reactant | Potassium carbonate | 724 mmol, 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 364 mmol, 29.1 mL | ICC | C2H5I
reactant | 2-hydroxy-4-iodobenzoic acid | 60.6 mmol, 16.0 g | OC1=C(C(=O)O)C=CC(=C1)I | C7H5IO3
reactant | Diethyl ether | 250 mL | C(C)OCC | C4H10O
reactant | Diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | 2-butanone | 250 mL | CC(CC)=O | C4H8O
product | ethyl 2-ethoxy-4-iodobenzoate | 9.50 g, 49% | C(C)OC1=C(C(=O)OCC)C=CC(=C1)I | C11H13IO3
